US07157464B2
Synthesis of 4-Chloro-3-(4-fluoro-phenyl)-5-methylsulfanyl-1H-pyrazole
Following protocol L, 3-(4-fluoro-phenyl)-5-methylsulfanyl-1H-pyrazole was treated with NCS in to yield the title compound.

reactant | 3-(4-fluoro-phenyl)-5-methylsulfanyl-1H-pyrazole | FC1=CC=C(C=C1)C1=NNC(=C1)SC | C10H9FN2S
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
product | 4-Chloro-3-(4-fluoro-phenyl)-5-methylsulfanyl-1H-pyrazole | ClC=1C(=NNC1SC)C1=CC=C(C=C1)F | C10H8ClFN2S
